US07109228B2
3-Cyanobenzamide
0.88 Ammonia solution (30 ml) was slowly added to a solution of 3-cyanobenzoyl chloride (10 g, 60.3 mmol) in dichloromethane (100 ml) at 0° C. under nitrogen and the reaction was stirred for 20 minutes. The mixture was filtered and the solid was washed with water (50 ml) then diethylether (50 ml), azeotroped with toluene and dried in vacuo to provide the title compound (9 g) as a white solid.

reactant | Ammonia | 30 ml | N | H3N
reactant | 3-cyanobenzoyl chloride | 60.3 mmol, 10 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-Cyanobenzamide | 9 g | C(#N)C=1C=C(C(=O)N)C=CC1 | C8H6N2O
